US04088495
To 300 parts of ethanol were successively added 6.9 parts of metallic sodium, 23.4 parts of 2-mercaptoethanol and 18.9 parts of 1,1,1-tris(chloromethyl)propane in this order, and the resulting mixture was heated under reflux. Thereafter, the deposited sodium chloride was removed, and the solution was concentrated to obtain 1,1,1-tris(2-hydroxyethyl-thiomethyl) propane. This compound was added to 50 parts of chloroform, and 45 parts of thionyl chloride was dropped into the resulting mixture. Subsequently, the mixture was heated under reflux, and then the solvent chloroform and unreacted thionyl chloride were removed by distillation under reduced pressure. The residual oily substance was poured into ice water and extracted with ether, and the ether extract was dehydrated over anhydrous sodium sulfate and then freed from the solvent by distillation to obtain 1,1,1-tris(2-chloroethylthiomethyl)propane. To this compound were successively added 0.3 part of phosphoric acid and 60 parts of 30% aqueous hydrogen peroxide, and the resulting medium mixture was heated under reflux and then cooled to deposit 1,1,1-tris(2-chloroethylsulfonylmethyl)propane. The deposited compound was recovered by filtration and dissolved in 200 parts of acetone, and the resulting acetone solution was incorporated with 30 parts of triethylamine and then stirred at room temperature to deposit triethylamine hydrochloride. This hydrochloride was removed, and the acetone solution was concentrated to deposit white solids. The solids were recrystallized from ethanol-acetone to obtain 1,1,1-tris(vinylsulfonylmethyl)propane.

reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | hydrogen peroxide | OO | H2O2
reactant | 1,1,1-tris(2-chloroethylsulfonylmethyl)propane | ClCCS(=O)(=O)CC(CC)(CS(=O)(=O)CCCl)CS(=O)(=O)CCCl | C12H23Cl3O6S3
product | 1,1,1-tris(vinylsulfonylmethyl)propane | C(=C)S(=O)(=O)CC(CC)(CS(=O)(=O)C=C)CS(=O)(=O)C=C | C12H20O6S3
